US04983596
To a suspension of sodium borohydride (1.87 g) in tetrahydrofuran (75 ml) was added boron trifluoride etherate (18.7 ml) in a nitrogen stream with stirring at 0°-10° C. The mixture was stirred at the same temperature for 30 minutes. To the mixture was added a solution of (2S,4R)-4-methanesulfonyloxy-2-(methylcarbamoyl)methyloxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (7.35 g) in tetrahydrofuran (7.5 ml) at 0°-10° C. The mixture was stirred at the same temperature for 3 hours and at ambient temperature overnight. Methanol (5 ml) was added to the reaction mixture at 0°-10° C. After 2 hours, insoluble material was filtered off and the filtrate was concentrated under reduced pressure to give a residue. A solution of the residue in a mixture of concentrated hydrochloric acid (7 ml) and methanol (70 ml) was stirred at ambient temperature overnight. The mixture was concentrated under reduced pressure to give a syrup. The syrup was dissolved in ethyl acetate (75 ml), washed with water (75 ml×2) and brine (75 ml) in turn, dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was dissolved in a mixture of water (30 ml) and tetrahydrofuran (30 ml), and to this mixture was added a solution of 4-nitrobenzyloxycarbonyl chloride (3.55 g) in tetrahydrofuran (7 ml) under ice-cooling with stirring, keeping the pH between 8.5-9.5 with 4N aqueous sodium hydroxide. The mixture was stirred at the same condition for 2 hours. The tetrahydrofuran was removed under reduced pressure from the reaction mixture and ethyl acetate (50 ml) was added thereto. The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (100 g) and eluted with a mixture of methanol and chloroform (1:99 V/V) to give (2S,4R)-4-methanesulfonyloxy-2-[2-{N-methyl-N-(4-nitrobenzyloxycarbonyl)amino}ethyloxymethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (8.33 g).

reactant | sodium borohydride | 1.87 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 18.7 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-4-methanesulfonyloxy-2-(methylcarbamoyl)methyloxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 7.35 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCC(NC)=O | C17H23N3O9S
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | 4-nitrobenzyloxycarbonyl chloride | 3.55 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | methanol | 70 ml | CO | CH4O
solvent | Methanol | 5 ml | CO | CH4O
product | (2S,4R)-4-methanesulfonyloxy-2-[2-{N-methyl-N-(4-nitrobenzyloxycarbonyl)amino}ethyloxymethyl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 8.33 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCN(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C25H30N4O12S
